US06387896B1
N-{[(5R)-3-(2(+)-methyl-2,3-dihydro-1-benzothien-5-yl)-2-oxo-1,3-oxazolidin-5-yl]methyl}acetamide
To a 15° C. suspension of 5-{[(benzyloxy)carbonyl]amino}-2-methyl-2,3-dihydrobenzo[b]thiophene (1.5 g, 5 mmol) in dimethylformamide (3 mL) is added methanol (406 μL, 10 mmol) and then 1M lithium-t-butoxide in hexanes (15 mL, 15 mmol) dropwise over 2 h. The mixture is cooled to 5° C. and (1S)-2-(acetylamino)-1-(chloromethyl)ethyl acetate (1.94 g, 10 mmol) is added in one portion. Stirring is continued overnight at room temperature when saturated aqueous ammonium chloride (50 mL) is added and then extracted with dichloromethane, dried, and flash chromatographed on silica gel eluting with 5% methanol in dichloromethane to give 1.20 (78%) of a mixture of the title compounds. The title compounds are resolved on a Chiralpak AD column eluting with ethanol to give the 2-(−)-isomer ([α]25D=−102 (c 0.49, DMSO). Anal. Calcd for C15H18N2O3S: C, 58.80; H, 5.92; N, 9.14. Found: C, 59.03; H, 6.03; N, 8.99) and the 2-(+)-isomer ([α]25D=55 (c 0.58, DMSO). Anal. Calcd for C15H18N2O3S: C, 58.80; H, 5.92; N, 9.14. Found: C, 59.12; H, 6.09; N, 8.78.)

reactant | 5-{[(benzyloxy)carbonyl]amino}-2-methyl-2,3-dihydrobenzo[b]thiophene | 5 mmol, 1.5 g | C(C1=CC=CC=C1)OC(=O)NC1=CC2=C(SC(C2)C)C=C1 | C17H17NO2S
reactant | methanol | 10 mmol, 406 μL | CO | CH4O
reactant | lithium-t-butoxide | 1M | CC(C)([O-])C.[Li+]
reactant | (1S)-2-(acetylamino)-1-(chloromethyl)ethyl acetate | 10 mmol, 1.94 g | C(C)(=O)O[C@@H](CNC(C)=O)CCl | C7H12ClNO3
reactant | ammonium chloride | 50 mL | [Cl-].[NH4+]
solvent | dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
solvent | DMSO | CS(=O)C | C2H6OS
product | N-{[(5R)-3-(2(+)-methyl-2,3-dihydro-1-benzothien-5-yl)-2-oxo-1,3-oxazolidin-5-yl]methyl}acetamide | CC1SC2=C(C1)C=C(C=C2)N2C(O[C@@H](C2)CNC(C)=O)=O | C15H18N2O3S
